* Z:\home\bean\RadioNotes\class_e_10mhz_opt2_real_components.asc
Vbattery N004 0 12
L1 N004 N005 10µH
C1 N005 0 10p
C2 N006 N005 100pF
L2 NC_01 NC_02 373.89nH
RLoad NC_03 0 10
M1 N005 N013 0 0 RD16HHF1
Vgen2 N012 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=330
R1 N014 0 1k
R3 N013 N014 3.3k
XU1 N012 N014 N013 N004 0 LT1818
L3 N002 N001 75n
L4 N003 N002 91n
C3 N001 0 330p
C4 N002 0 910p
C5 N003 0 750p
R2 N003 0 75
C6 N008 N007 180p
L5 N008 0 160n
C7 N009 N008 130p
R4 NC_04 0 75
L6 N010 N009 560n
L7 N011 N010 560n
C8 N009 0 82p
C9 N010 0 150p
C10 N011 0 82p
R5 N011 0 75
L8 N007 N006 1.8µ
L9 N007 N006 470n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.mos
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=3.5 Vh=0)
.tran 0 30u 25u 100p startup
* ClassE - www.TonneSoftware.com
.model RD16HHF1 VDMOS(Rg=987m Rd=0m Rs=111m Vto=3.19 Kp=0.495 Lambda=0 mtriode=0.804 subthres=2.37e-02 Cgdmax=11.6p Cgdmin=1.64p Cgs=44.9p Cjo=73.1p M=0.297 Vj=0.839)
* preamp, using a very high slew rate op-amp
* this is needed to amplify the 3.3V square wave to 12V
* actual Class E amplifier
.param freq 28074000
* .step param freq 28Meg 30Meg 0.1Meg
* 10 -> 75, lpf
* impedance matching network
* low pass filter
.model MRF101AN VDMOS(Rg=4 Rd=1 Rs=0.1 Vto=2.2 Kp=7.1 Lambda=0 mtriode=0.692 subthres=1.07m Cgdmax=5p Cgdmin=1p Cgs=130p Cjo=130p M=0.4 Vj=2.3 BV=140 tt=1n)
.lib LTC2.lib
.backanno
.end
